US03994955
Following the procedure in Example 1 using 7.1 parts of methyl 2-(4-formylphenoxy)-2-methyl-2-ethylacetate and 4.9 parts of p-ethoxyacetophenone in 10 parts by volume of ethanol containing 0.1 part of sodium metal provides methyl 2-[4-(2-p-ethoxybenzoylethenyl)phenoxy]-2-methyl-2 ethylacetate. This compound has the following structural formula. ##SPC11##

reactant | methyl 2-(4-formylphenoxy)-2-methyl-2-ethylacetate | C(=O)C1=CC=C(OC(C(=O)OC)(CC)C)C=C1 | C13H16O4
reactant | p-ethoxyacetophenone | C(C)OC1=CC=C(C=C1)C(C)=O | C10H12O2
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | methyl 2-[4-(2-p-ethoxybenzoylethenyl)phenoxy]-2-methyl-2 ethylacetate | C(C)OC1=CC=C(C(=O)C=CC2=CC=C(OC(C(=O)OC)(CC)C)C=C2)C=C1 | C23H26O5
